US06284915B1
4′-(2-Iodoethyl)octanophenone prepared (5 g) in the step D-3 was dissolved in anhydrous N,N-dimethylformamide (15 ml) to obtain 4′-(2-iodoethyl)octanophenone solution. Diethyl acetamide malonate (9.09 g) was dissolved in anhydrous N,N-dimethylformamide (30 ml) to obtain a solution to which 60% sodium hydride oil dispersion (1.23 g) was added with cooling. The solution was stirred under atmosphere of nitrogen for 1 hour. 4′-(2-Iodoethyl)octanophenone solution was added to the solution, and the solution was stirred under atmosphere of nitrogen at 60° C. for 2 hours. The reaction solution was poured into ice water, and extracted with ether, and washed with saturated saline solution. The extracted solution was dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography using hexane-ethyl acetate (1:0→3:1) as an eluate to obtain diethyl acetamide-2-(4-octanoyl phenyl)ethyl malonate (3.2 g) and 4′-vinyl octanophenone (1.5 g) in the form of colorless crystal, respectively. The diethyl acetamide malonate (4.25 g) was dissolved in anhydrous N,N-dimethylformamide (30 ml) to obtain a solution, to which 60% sodium hydride oil dispersion (574 mg) was added. The solution was stirred under atmosphere of nitrogen at room temperature for 30 minutes. 4′-Vinyl octanophenone (1.5 g) and anhydrous ethanol (7.5 ml) were added to the solution, and the solution was stirred under atmosphere of nitrogen at 60° C. for 6 hours, and the solution was stirred at room temperature for 2 days. The reaction solution was poured into ice water, extracted with ether, and washed with saturated saline solution. The extracted solution was dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography using hexane-ethyl acetate (1:0→4:1) as an eluate to obtain diethyl acetamide-2-(4-octanoyl phenyl)ethyl malonate (2.29 g) in the form of colorless crystal.

reactant | diethyl acetamide malonate | 4.25 g | C(CC(=O)O)(=O)O.C(C)C(C(=O)N)CC
reactant | sodium hydride oil dispersion | 574 mg | [H-].[Na+]
reactant | 4′-Vinyl octanophenone | 1.5 g | C(=C)C1=CC=C(C=C1)C(CCCCCCC)=O | C16H22O
reactant | ethanol | 7.5 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | diethyl acetamide 2-(4-octanoyl phenyl)ethyl malonate | 2.29 g | C(C)C(C(=O)N)CC.C(CC(=O)[O-])(=O)OCCC1=CC=C(C=C1)C(CCCCCCC)=O | InChI=1S/C19H26O5.C6H13NO/c1-2-3-4-5-6-7-17(20)16-10-8-15(9-11-16)12-13-24-19(23)14-18(21)22;1-3-5(4-2)6(7)8/h8-11H,2-7,12-14H2,1H3,(H,21,22);5H,3-4H2,1-2H3,(H2,7,8)/p-1
